US07074837B2
[1-(Diethoxymethyl)cyclopropyl]methanol
A tetrahydrofuran (190 mL) solution of 1-(diethoxymethyl)cyclopropane carboaldehyde (37.78 g) was cooled to 0° C. Lithium aluminum hydride (2 g, 52.7 mmol) was added and the mixture was stirred for 40 minutes. Water was added to terminate the reaction, followed by extraction with chloroform. The organic layer was washed with water and then dried over sodium sulfate. The solvent was evaporated under reduced pressure, whereby 34.60 g (91%) of the title compound was obtained as a colorless oil.

reactant | tetrahydrofuran | 190 mL | O1CCCC1 | C4H8O
reactant | 1-(diethoxymethyl)cyclopropane carboaldehyde | 37.78 g | C(C)OC(C1(CC1)C=O)OCC | C9H16O3
reactant | Lithium aluminum hydride | 52.7 mmol, 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | Water | O | H2O
product | [1-(Diethoxymethyl)cyclopropyl]methanol | 34.60 g, 91% | C(C)OC(C1(CC1)CO)OCC | C9H18O3
